US07368579B2
Acetonitrile (20 ml) suspension of 2-mercaptoimidazole (1.0 g) and 2,3-dichloronitrobenzene (2.1 g), potassium carbonate (1.7 g) was stirred under refluxing for 6.5 hours. The reaction mixture was poured into ice-water. The deposited solids were collected by filtration, and washed with n-hexane. The thus obtained solids were dried, there was obtained 2-(2-chloro-6-nitrophenylthio)imidazole (2.4 g, yield: 94%) as yellow powdery product.

reactant | 2-mercaptoimidazole | 1.0 g | SC=1NC=CN1 | C3H4N2S
reactant | 2,3-dichloronitrobenzene | 2.1 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | Acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(2-chloro-6-nitrophenylthio)imidazole | 2.4 g, yield: 94% | ClC1=C(C(=CC=C1)[N+](=O)[O-])SC=1NC=CN1 | C9H6ClN3O2S
